US07960394B2
3,7-Dimethyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-4-methylbenzoic acid, methylamine and 4-(3-piperidin-1-ylpropoxy)benzaldehyde.

reactant | 2-amino-4-methylbenzoic acid | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | methylamine | CN | CH5N
reactant | 4-(3-piperidin-1-ylpropoxy)benzaldehyde | N1(CCCCC1)CCCOC1=CC=C(C=O)C=C1 | C15H21NO2
product | 3,7-Dimethyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | CN1C(=NC2=CC(=CC=C2C1=O)C)C1=CC=C(C=C1)OCCCN1CCCCC1 | C24H29N3O2
